US05574042
To a solution of 8-(3-acetylamino-2,6-dichlorobenzyloxy)-3-bromo-2-methylimidazo[1,2-a]pyridine (222 mg) in N,N-dimethylformamide (2 ml) was added sodium hydride (24 mg, 60% oil dispersion) in one portion at ambient temperature. The mixture was stirred for half an hour at the same temperature and iodomethane (142 mg) was added thereto. After stirring for half an hour, the mixture was poured into water. The separated oil was extracted with ethyl acetate. The extracts were washed with water, dried, and evaporated under reduced pressure. The residue was purified by flash chromatography on silica gel to give 3-bromo-8-[2,6-dichloro-3-(N-acetyl-N-methylamino) benzyloxy]-2-methylimidazo[1,2-a]pyridine (135 mg) as a solid.

reactant | 8-(3-acetylamino-2,6-dichlorobenzyloxy)-3-bromo-2-methylimidazo[1,2-a]pyridine | 222 mg | C(C)(=O)NC=1C(=C(COC=2C=3N(C=CC2)C(=C(N3)C)Br)C(=CC1)Cl)Cl | C17H14BrCl2N3O2
reactant | sodium hydride | 24 mg | [H-].[Na+]
reactant | iodomethane | 142 mg | IC | CH3I
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | 3-bromo-8-[2,6-dichloro-3-(N-acetyl-N-methylamino) benzyloxy]-2-methylimidazo[1,2-a]pyridine | 135 mg | BrC1=C(N=C2N1C=CC=C2OCC2=C(C(=CC=C2Cl)N(C)C(C)=O)Cl)C | C18H16BrCl2N3O2
